US06956042B2
A mixture of spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] (300 mg, 1.98 mmol), 3-bromopyridine (344 mg, 2.18 mmol), tris(dibenzylideneacetone)dipalladium(0) (54.57 mg, 0.0654 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (74.22 mg, 0.131 mmol) and potassium tert-butoxide (668.8 mg, 5.96 mmol) in dry toluene (20 mL) was heated in a sealed tube flushed with argon gas at 90° C. for 8 h. The reaction was cooled to 0° C. and the contents transferred to a 100 mL round bottom flask. The solvent was removed by rotary evaporation and the residue was dissolved in a saturated solution of NaHCO3 (10 mL) and extracted with chloroform (4×15 mL). The combined chloroform extracts were dried (K2CO3), filtered and concentrated by rotary evaporation to give a dark colored syrup. This was purified by column chromatography, using MeOH:CHCl3:NH4OH (8:2:0.01, v/v) as the eluent, to afford 350 mg (79.0%) of 1′-(3-pyridyl)-spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] as a light brown syrup. A portion of the free base (200 mg) was converted to a hydrochloride salt, which was crystallized from isopropanol and ethanol to yield 200 mg (76%) of a light brown solid, (m.p. 232°-236° C.).

reactant | spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] | 1.98 mmol, 300 mg | N1CC2(CC1)N1CCC(C2)C1 | C9H16N2
reactant | 3-bromopyridine | 2.18 mmol, 344 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | potassium tert-butoxide | 5.96 mmol, 668.8 mg | CC(C)([O-])C.[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0654 mmol, 54.57 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.131 mmol, 74.22 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 1′-(3-pyridyl)-spiro[1-azabicyclo[2.2.1]heptane-2,3′-pyrrolidine] | 350 mg, 79.0% | N1=CC(=CC=C1)N1CC2(CC1)N1CCC(C2)C1 | C14H19N3
